US05576321
Preparation of (2S)-(+)-3-(4-(6-methyl-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl)-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.389 g, 2.05 mmol) and 6-methyl-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.400 g, 1.87 mmol) using ethanol as reaction solvent. Yield 0.260 g (35%) as an orange foam. mp 99°-103° C. (dec). FDMS m/e=401 (M+ of free base). α[D]589 =+5.1 (c=0.98, dimethylsulfoxide).

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 2.05 mmol, 0.389 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 6-methyl-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.87 mmol, 0.400 g | CC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C14H16N2
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2S)-(+)-3-(4-(6-methyl-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl)-1-(4-indolyloxy)-2-propanol | CC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C25H27N3O2
